US04183933
A mixture of 21.2 g (0.2 mole) of vinylpyrazine, 18.0 g (0.4 mole) of ethylamine, 6.0 g (0.1 mole) of acetic acid and 60 ml methanol was placed in a pressure bottle and heated at 70° C. for 24 hours. After removing the methanol, the residue was made basic with 8.0 g (0.2 mole) of sodium hydroxide in 80 ml of water and extracted with several portions of chloroform. After removing the chloroform, the residue was distilled to give 24.5 g of β-ethylaminoethylpyrazine, b.p. 70°-72° C. at 0.5 mm Hg, nD25 =1.5103.

reactant | vinylpyrazine | 0.2 mole, 21.2 g | C(=C)C1=NC=CN=C1 | C6H6N2
reactant | ethylamine | 0.4 mole, 18.0 g | C(C)N | C2H7N
reactant | acetic acid | 0.1 mole, 6.0 g | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | 0.2 mole, 8.0 g | [OH-].[Na+]
solvent | water | 80 ml | O | H2O
solvent | methanol | 60 ml | CO | CH4O
product | β-ethylaminoethylpyrazine | 24.5 g | C(C)NCCC1=NC=CN=C1 | C8H13N3
